US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-ethyl-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole (0.3 g) and ethyl iodide (0.12 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 14(a) to obtain the title compound (0.24 g, 73%) as a colorless oil.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.3 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
reactant | ethyl iodide | 0.12 ml | C(C)I | C2H5I
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-ethyl-5-phenylisoxazole | 0.24 g, 73% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CC)C1=CC=CC=C1 | C18H24N2O4
